*Three stage operational amplifier

*** *** OPAMP SUBCIRCUIT *** ***
.SUBCKT PFC.SUB VP VN VOUT IBIAS VB1 AVDD AVSS

M00 IBIAS IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000003675

* differential pair
M10 1 IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000003675 M=6

M11 2 VN 1 1    PMOS W=0.000025175 L=0.000003675
M12 3 VP 1 1    PMOS W=0.000025175 L=0.000003675

* folded cascode
M13 4 IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000003675 M=3
M16 5 IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000003675 M=3

M14 4 VB1 2 AVSS NMOS W=0.000025175 L=0.000003675
M17 5 VB1 3 AVSS NMOS W=0.000025175 L=0.000003675

M15 2 4 AVSS AVSS NMOS W=0.000025175 L=0.000003675
M18 3 4 AVSS AVSS NMOS W=0.000025175 L=0.000003675

* second stage
M20 6 5 AVDD AVDD PMOS W=0.000025175 L=0.000003675
M22 7 IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000025175

M21 6 6 AVSS AVSS NMOS W=0.000025175 L=0.000003675
M23 7 6 AVSS AVSS NMOS W=0.000025175 L=0.000003675

* third stage
M30 VOUT 5 AVDD AVDD PMOS W=0.000025175 L=0.000003675 M=22
M31 VOUT 7 AVSS AVSS NMOS W=0.000025175 L=0.000003675 M=5

* compensation
CM1 5 VOUT 0.000000000010999999999999999
CM2 5 7    0.000000000010999999999999999
.ENDS PFC.SUB

*** *** SUPPLY VOLTAGES *** ***
VDD VDD 0 2.8499999999999996
VSS VSS 0   0

*** *** BIAS VOLTAGE *** ***
VVB1 VB1 VSS DC 2.0

*** *** BIAS CURRENT *** ***
IIBIAS IBIAS VSS 0.0000055

*** *** SUB-CIRCUIT *** ***
XOPAMP VP VN VOUT IBIAS VB1 VDD VSS PFC.SUB_XOPAMP

*** *** LOAD *** ***
RL VOUT VX 10k
CL VOUT VX 100p
VX VX VSS '2.8499999999999996/2'

*** *** AC LOOP *** ***
VIN VP VSS '2.8499999999999996/2' AC 1
RX VN VOUT 1m AC=1E12
CX VN VSS 10

*** *** ANALYSIS *** ***
.AC DEC 100 0.001 1E9
*.PZ V(VOUT)
.PROBE AC VDB(VOUT)
.PROBE AC VP(VOUT)
.OP
* .OPTION NOBOUND_PHASE
.INCLUDE p.typ
.INCLUDE n.typ
***** SpiceEditor Manipulated this sub-circuit ****
.SUBCKT PFC.SUB_XOPAMP VP VN VOUT IBIAS VB1 AVDD AVSS

M00 IBIAS IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000003675

* differential pair
M10 1 IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000003675 M=6

M11 2 VN 1 1    PMOS W=5.035e-05 L=3.675e-06
M12 3 VP 1 1    PMOS W=2.5175e-05 L=4e-06

* folded cascode
M13 4 IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000003675 M=3
M16 5 IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000003675 M=3

M14 4 VB1 2 AVSS NMOS W=0.000025175 L=0.000003675
M17 5 VB1 3 AVSS NMOS W=0.000025175 L=0.000003675

M15 2 4 AVSS AVSS NMOS W=0.000025175 L=0.000003675
M18 3 4 AVSS AVSS NMOS W=0.000025175 L=0.000003675

* second stage
M20 6 5 AVDD AVDD PMOS W=0.000025175 L=0.000003675
M22 7 IBIAS AVDD AVDD PMOS W=0.000025175 L=0.000025175

M21 6 6 AVSS AVSS NMOS W=0.000025175 L=0.000003675
M23 7 6 AVSS AVSS NMOS W=0.000025175 L=0.000003675

* third stage
M30 VOUT 5 AVDD AVDD PMOS W=0.000025175 L=0.000003675 M=22
M31 VOUT 7 AVSS AVSS NMOS W=0.000025175 L=0.000003675 M=5

* compensation
CM1 5 VOUT 0.000000000010999999999999999
CM2 5 7    0.000000000010999999999999999
.ENDS PFC.SUB_XOPAMP
***** ENDS SpiceEditor ****
.END
